US07101886B2
3-{4-[2-(4,5-DIMETHOXY-2-NITRO-PHENYL)-ETHYL]-PIPERAZIN-1-YL}-1,2-BENZISOTHIAZOLE
1-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-2-(4,5-dimethoxy-2-nitro-phenyl)-ethanone (6.08 g, 13.8 mmol) was diluted in 50 mL of toulene. Borane methyl sulfide complex (2.0 M in tolulene, 7.22 mL) was slowly added to the stirring mixture. The reaction mixture was heated to 110° C. in an oil bath overnight. Upon cooling, excess sodium bicarbonate was added dropwise and the mixture was heated to 85° C. until gas evolution subsided. The water layer was removed and extracted in methylene chloride. The organic layers were combined, dried over Na2SO4 then concentrated and purified by column chromatography to afford 4.40 g of a brown solid. Yield 74%; 100% purity at 254 nm; LCMS (APCI): 428 [M+H]+; mp 135° C.

reactant | 1-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-2-(4,5-dimethoxy-2-nitro-phenyl)-ethanone | 13.8 mmol, 6.08 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)C(CC2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O | C21H22N4O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-{4-[2-(4,5-DIMETHOXY-2-NITRO-PHENYL)-ETHYL]-PIPERAZIN-1-YL}-1,2-BENZISOTHIAZOLE | 4.40 g, Yield 74% | COC1=CC(=C(C=C1OC)CCN1CCN(CC1)C1=NSC2=C1C=CC=C2)[N+](=O)[O-] | C21H24N4O4S
